US07166621B2
This Example illustrates the preparation of 2-(5-chloro-3-pyridyloxy)- N-(4-methylpent-2-yn-4-yl)-3-methoxypropionamide (Compound No 21 in Table 1)
3-Chloro-5-hydroxypyridine (0.074 g), anhydrous potassium carbonate (0.087 g) and 2-bromo-N-(4-methylpent-2-yn-4-yl)-3-methoxypropionamide (0.150 g) in dry N,N-dimethylformamide (3 ml) were stirred at 80° C. for 5 hours. The mixture was allowed to cool to ambient temperature and stored for 2 days. The mixture was poured into water, extracted with ethyl acetate and the organic phases were combined, washed with water, dried over magnesium sulphate and evaporated under reduced pressure to a gum. The gum was fractionated by chromatography (silica; ethyl acetate:hexane, 2:3 by volume) to give a colourless gum that was dissolved in diethyl ether and extracted with aqueous hydrochloric acid (3M). The aqueous acidic fraction was collected and treated with potassium carbonate until basic then extracted with diethyl ether. The ether extracts were combined, dried over magnesium sulphate and evaporated under reduced pressure to give the required product, 0.094 g, as a colourless gum.

reactant | 3-Chloro-5-hydroxypyridine | 0.074 g | ClC=1C=NC=C(C1)O | C5H4ClNO
reactant | potassium carbonate | 0.087 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl)-3-methoxypropionamide | 0.150 g | BrC(C(=O)NC(C#CC)(C)C)COC | C10H16BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(5-chloro-3-pyridyloxy)- N-(4-methylpent-2-yn-4-yl)-3-methoxypropionamide | ClC=1C=C(C=NC1)OC(C(=O)NC(C#CC)(C)C)COC | C15H19ClN2O3
